US08455475B2
LiOH (5 equiv.) was added to a suspension of 3-[[(4-methoxy-2,6-dimethyl-phenyl)sulfonyl]amino]-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester (C-01) (11.75 mmol) in methanol (40 ml), tetrahydrofuran (40 ml) and water (30 ml) and the reaction mixture was stirred at 25° C. overnight. Methanol and THF were distilled off, the aqueous residue was acidified with 1N HCl and the mixture was filtered. The white solid obtained was taken up in a mixture of 350 ml of acetone and 50 ml of methanol and the mixture was stirred for 1 h. After filtration, the white solid was dried in vacuo to obtain 3-[[(4-methoxy-2,6-dimethyl-phenyl))sulfonyl]amino]-2,3-dihydro-1H-indene-5-carboxylic acid (F-01). Yield: 90%

reactant | LiOH | 5 equiv. | [Li+].[OH-]
reactant | 3-[[(4-methoxy-2,6-dimethyl-phenyl)sulfonyl]amino]-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester | 11.75 mmol | COC(=O)C=1C=C2C(CCC2=CC1)NS(=O)(=O)C1=C(C=C(C=C1C)OC)C | C20H23NO5S
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | acetone | 350 ml | CC(=O)C | C3H6O
solvent | methanol | 50 ml | CO | CH4O
product | 2,3-dihydro-1H-indene-5-carboxylic acid | Yield: 90% | C1CCC2=CC(=CC=C12)C(=O)O | C10H10O2
